US06399629B1
(C) N-tert-Butoxycarbonyl-cis-4-p-Toluenesulfonyloxy-L-Proline 3-Quinolylamide
4-Dimethylaminopyridine (395 mg) and p-toluenesulfonyl chloride (468 mg) were added to a solution of N-tert-butoxycarbonyl-cis-4-hydroxy-L-proline 3-quinolylamide (B, 572 mg) in dichloromethane (10 mL) at 0° C. After stirring at room temperature for 2.5 hr, additional 4-dimethylaminopyridine (399 mg) and p-toluenesulfonyl chloride (465 mg) were added. Additional 4-dimethylaminopyridine (400 mg) and p-toluenesulfonyl chloride (467 mg) were added again after 2 hr. The resulting solution was stirred at room temperature for 14 hr, and the solvent was evaporated in vacuo. The residue was diluted with ethyl acetate, and washed with 0.5 M citric acid, saturated sodium hydrogen carbonate, and brine. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform then chloroform:methanol=50:1, v/v) to afford the title compound (805 mg) as a pale yellow sticky oil: 1H NMR (400 MHz, CD3OD) δ 1.3-1.5 (m, 9H), 2.23 (m, 3H), 2.3-2.7 (m, 2H), 3.4-3.8 (m, 2H), 4.5 (m, 1H), 5.25 (m, 1H), 7.20 (m, 2H), 7.7-7.9 (m, 5H), 8.00 (d, 1H), 8.58 (br s, 1H), and 8.85 (br s, 1H).

reactant | p-toluenesulfonyl chloride | 468 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-tert-butoxycarbonyl-cis-4-hydroxy-L-proline 3-quinolylamide | 572 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C)=O | C19H23N3O4
reactant | p-toluenesulfonyl chloride | 465 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 467 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-Dimethylaminopyridine | 395 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 399 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | 4-dimethylaminopyridine | 400 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-tert-Butoxycarbonyl-cis-4-p-Toluenesulfonyloxy-L-Proline 3-Quinolylamide | 805 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C)=O | C26H29N3O6S
